US07858640B2
[2-ethyl-8-fluoro-3-(4-fluorobenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (0.80 g), 2-(4-fluorobenzyl)-3-oxopentanoic acid methyl ester (1.0 g), polyphosphoric acid (10 g) and dioxane (10 mL) was heated at 130° C. for 17 hours. The mixture was cooled to room temperature and partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and the combined organic phases washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure to afford title compound, 1.5 g.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 0.80 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-(4-fluorobenzyl)-3-oxopentanoic acid methyl ester | 1.0 g | COC(C(C(CC)=O)CC1=CC=C(C=C1)F)=O | C13H15FO3
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | [2-ethyl-8-fluoro-3-(4-fluorobenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)F)=O)=O | C21H19F2NO4
